US07851493B2
To a solution of 800 mg of [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol in 4 mL of tetrahydrofuran at 5° C. was slowly added 2.13 mL of a molar solution of potassium tert-butoxide in tert-butanol. After stirring at 5° C. for 30 minutes, the resulting solution was slowly added to a solution of 296 mg of 2,4,5-trifluoro-benzonitrile in 1 mL of tetrahydrofuran at −60° C. The resulting mixture was stirred for 1 h at −60° C. then stirred overnight allowing the temperature to warm up to room temperature. It was then poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was recrystallized from methanol and washed with diisopropyl ether to give 890 mg of 2,5-difluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile.

reactant | [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol | 800 mg | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)CO)(F)F | C18H18F6N2OS
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,4,5-trifluoro-benzonitrile | 296 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2,5-difluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile | 890 mg | FC1=C(C#N)C=C(C(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F)F | C25H19F8N3OS
